US07842685B2
To a slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylbut-3-enyl)-thiazolo[5,4-b]pyridine (1.17 g, 2.62 mmol) in 20 mL DMF under argon was added sodium bis(trimethylsilyl)amide, 1.0M solution in tetrahydrofuran (3.28 mL, 3.28 mmol). The reaction mixture became deep blue/purple. After 2 min, allyl iodide (0.362 mL, 3.93 mmol) was added and the reaction became light orange after 1 min. After 5 min total, the reaction mixture was quenched with sat'd aq. NH4Cl, EtOAc, and water. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography, ISCO, 80 g, 0-40% EA/hexanes to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(4-phenylhepta-1,6-dien-4-yl)thiazolo[5,4-b]pyridine as a white foam. MS (ESI) m/z: Calculated: 486.2; Observed: 487.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylbut-3-enyl)-thiazolo[5,4-b]pyridine | 2.62 mmol, 1.17 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CC=C)C1=CC=CC=C1)F | C26H23FN2O2S
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tetrahydrofuran | 3.28 mmol, 3.28 mL | O1CCCC1 | C4H8O
reactant | allyl iodide | 3.93 mmol, 0.362 mL | C(C=C)I | C3H5I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(4-phenylhepta-1,6-dien-4-yl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CC=C)(CC=C)C1=CC=CC=C1)F | C29H27FN2O2S
